US05210315
In a 50 ml flask equipped with a thermometer, a dropping funnel, and a stirrer were charged 10 ml of methylene chloride, 10 ml of acetonitrile, 10 ml of water, 1.12 g (10 mmole) of 4-octene, and 78 mg (0.3 mmole) of ruthenium trichloride, and a 30% ethyl acetate solution of 7.6 g (30 mmole) of peracetic acid was added to the mixture dropwise at 15° C. over 1.5 hours while stirring on a magnetic stirrer. After the addition, the stirring was further continued at room temperature for 2 hours. The reaction mixture was extracted three times with 30 ml portions of methylene chloride. The combined extract was washed with 30 ml of a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was removed by distillation to obtain crude 5-hydroxy4-octanone, which was then purified by silica gel column chromatography using a 10:1 (by volume) mixture of n-hexane and ethyl acetate as an eluent to give 0.87 g (percent yield: 59%) of 5-hydroxy-4-octanone.

reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | 4-octene | 10 mmole, 1.12 g | CCCC=CCCC | C8H16
reactant | peracetic acid | 30 mmole, 7.6 g | C(C)(=O)OO | C2H4O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | ruthenium trichloride | 0.3 mmole, 78 mg | [Ru](Cl)(Cl)Cl
solvent | water | 10 ml | O | H2O
product | 5-hydroxy-4-octanone | 0.87 g, yield: 59% | OC(C(CCC)=O)CCC | C8H16O2
